US06921759B2
Step 6: Preparation of 7-({[4-fluoro-2-(methylthio)benzyl]amino}carbonyl)-8-hydroxy-1,6-naphthyridine-5-carboxylic acid
To a solution of methyl 7-({[4-fluoro-2-(methylthio)benzyl]amino}carbonyl)-8-hydroxy-1,6-naphthyridine-5-carboxylate (0.180 g, 0.448 mmol) in 4 mL of dioxane: methanol (3:1) was added 1.34 mL of a stock solution of 1 N NaOH (1.34 mmol). The reaction was stirred for 3 hours at 80 degrees C. The reaction was determined to be complete by LCMS analysis. The solvent was removed in vacuo and the residue partitioned between 5% HCl and methylene chloride. The organics were reduced to give desired compound as a solid.

reactant | methyl 7-({[4-fluoro-2-(methylthio)benzyl]amino}carbonyl)-8-hydroxy-1,6-naphthyridine-5-carboxylate | 0.448 mmol, 0.180 g | FC1=CC(=C(CNC(=O)C=2N=C(C=3C=CC=NC3C2O)C(=O)OC)C=C1)SC | C19H16FN3O4S
reactant | NaOH | 1.34 mmol, 1 N | [OH-].[Na+]
solvent | dioxane methanol | 4 mL | O1CCOCC1.CO
product | 7-({[4-fluoro-2-(methylthio)benzyl]amino}carbonyl)-8-hydroxy-1,6-naphthyridine-5-carboxylic acid | FC1=CC(=C(CNC(=O)C=2N=C(C=3C=CC=NC3C2O)C(=O)O)C=C1)SC | C18H14FN3O4S
